US08258134B2
A pressure vial containing a mixture of 4-chloro-5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one (328.1 mg, 1.1 mmol), ethanol (12.1 mL), and a 2N aqueous sodium hydroxide solution (0.61 mL) was treated with 10% palladium on carbon (121 mg). The reaction was then pressurized with hydrogen (50 psi), where it shook for 20 h. The resulting reaction mixture was removed from the hydrogenator and then filtered through a pad of diatomaceous earth, washing with ethanol. The filtrate was concentrated in vacuo to remove organics. The resulting residue was taken up in 90/10 methylene chloride/methanol (75 mL) and water (40 mL). The aqueous layer was acidified with a 2N aqueous hydrochloric acid solution to pH=1, and the layers were separated. The aqueous layer was then back extracted with a 90/10 methylene chloride/methanol solution (2×75 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one (223 mg, 77%) as a yellow solid; ES+-HRMS m/e calcd for C12H9N2OF3 [M+H+] 255.0740, found 255.0740. 1H NMR (300 MHz, DMSO-d6) δ ppm 4.05 (s, 2H), 6.28 (s, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.54 (d, J=7.8 Hz, 1H), 7.69 (t, J=7.8 Hz, 1H), 7.75 (d, J=2.1 Hz, 1H), 7.78 (d, J=7.8 Hz, 1H), 12.96 (br. s., 1H).

reactant | 4-chloro-5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one | 1.1 mmol, 328.1 mg | ClC=1C(NN=CC1CC1=C(C=CC=C1)C(F)(F)F)=O | C12H8ClF3N2O
reactant | sodium hydroxide | 2N, 0.61 mL | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 121 mg | [Pd] | Pd
solvent | ethanol | 12.1 mL | C(C)O | C2H6O
product | 5-(2-trifluoromethyl-benzyl)-2H-pyridazin-3-one | 223 mg, 77% | FC(C1=C(CC2=CC(NN=C2)=O)C=CC=C1)(F)F | C12H9F3N2O
